US04049825
A mixture of 25.4 g (0.1 mole) of bis(p-fluorophenyl)methyl chloride, 10.3 g (0.1 mole) of N-(2-hydroxyethyl)acetamide (prepared according to F. J. McQuillin et al., J. Chem. Soc. 1955, 2966), 14 g of potassium carbonate and 100 ml of benzene is refluxed for 5 hours. After cooling, the reaction mixture is poured into water. The aqueous layer is extracted with dichloromethane and the combined organic layers are dried over potassium carbonate and concentrated by evaporation of solvent. The residue is crystallised from toluene. N-{2-[Bis(p-fluorophenyl)methoxy]ethyl}acetamide, m.p. 112°-113.5° C., is obtained.

reactant | bis(p-fluorophenyl)methyl chloride | 0.1 mole, 25.4 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)Cl | C13H9ClF2
reactant | N-(2-hydroxyethyl)acetamide | 0.1 mole, 10.3 g | OCCNC(C)=O | C4H9NO2
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-{2-[Bis(p-fluorophenyl)methoxy]ethyl}acetamide | FC1=CC=C(C=C1)C(OCCNC(C)=O)C1=CC=C(C=C1)F | C17H17F2NO2
